US06252082B1
1.1. 4-Hydroxy-6-methyl-2-oxo-1,2-dihydropyridine-1-acetic Acid
178.7 g (1.4 mmol) of 4-hydroxy-6-methyl-2H-pyran-2-one are added, in portions at room temperature, to a solution of 106.4 g (1.4 mmol) of glycine in 1.4 l of a 1 N aqueous sodium hydroxide solution. The mixture is heated under reflux for 1 hour, the reaction medium is cooled and it is acidified with 500 ml of 3 N hydrochloric acid. The reaction medium is then concentrated to half the volume, the precipitate is filtered, it is washed with cold water and it is dried in an oven.

reactant | 4-hydroxy-6-methyl-2H-pyran-2-one | 1.4 mmol, 178.7 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | glycine | 1.4 mmol, 106.4 g | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | hydrochloric acid | 3 N, 500 ml | Cl | ClH
product | 4-Hydroxy-6-methyl-2-oxo-1,2-dihydropyridine-1-acetic Acid | OC1=CC(N(C(=C1)C)CC(=O)O)=O | C8H9NO4
